US08748613B2
Methyl 2-bromo-2-(3-fluorophenyl)acetate (310 mg, 1.25 mmol), piperidine (0.15 ml, 1.51 mmol), and DIPEA (0.26 ml, 1.51 mmol) were dissolved in acetonitrile (15 ml) and stirred at room temperature for 16 hours. The solvent was evaporated and the crude was purified by flash chromatography (petroleum ether/EtOAc=9/1) to afford methyl 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetate (224 mg, 71% yield) as a colorless oil.

reactant | Methyl 2-bromo-2-(3-fluorophenyl)acetate | 1.25 mmol, 310 mg | BrC(C(=O)OC)C1=CC(=CC=C1)F | C9H8BrFO2
reactant | piperidine | 1.51 mmol, 0.15 ml | N1CCCCC1 | C5H11N
reactant | DIPEA | 1.51 mmol, 0.26 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | methyl 2-(3-fluorophenyl)-2-(piperidin-1-yl)acetate | 224 mg, 71% yield | FC=1C=C(C=CC1)C(C(=O)OC)N1CCCCC1 | C14H18FNO2
